* /media/DATOS/Dropbox/TransBus - La Estrella/Cartel/Modelos/Columna5060/Columna5060.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: vie 16 sep 2016 15:10:40 ART

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
P4  /1/K0 /1/K1 /1/K2 CONN_01X03		
JP7  /7/A0 /7/A1 /7/A2 JUMPER3_NO		
JP6  /6/A0 /6/A1 /6/A2 JUMPER3_NO		
JP5  /5/A0 /5/A1 /5/A2 JUMPER3_NO		
JP4  /4/A0 /4/A1 /4/A2 JUMPER3_NO		
JP3  /3/A0 /3/A1 /3/A2 JUMPER3_NO		
JP2  /2/A0 /2/A1 /2/A2 JUMPER3_NO		
JP1  /1/A0 /1/A1 /1/A2 JUMPER3_NO		
P1  /1/A0 /1/A1 /1/A2 /2/A0 /2/A1 /2/A2 /3/A0 /3/A1 /3/A2 /4/A0 /4/A1 /4/A2 /5/A0 /5/A1 /5/A2 /6/A0 /6/A1 /6/A2 /7/A0 /7/A1 /7/A2 CONN_01X21		
* Sheet Name: /1/
D9  /1/A2 /1/A2 /1/A2 /1/K2 /1/K2 /1/K2 LED_5060		
D6  /1/A1 /1/A1 /1/A1 /1/K2 /1/K2 /1/K2 LED_5060		
D3  /1/A0 /1/A0 /1/A0 /1/K2 /1/K2 /1/K2 LED_5060		
D8  /1/A2 /1/A2 /1/A2 /1/K1 /1/K1 /1/K1 LED_5060		
D5  /1/A1 /1/A1 /1/A1 /1/K1 /1/K1 /1/K1 LED_5060		
D2  /1/A0 /1/A0 /1/A0 /1/K1 /1/K1 /1/K1 LED_5060		
D7  /1/A2 /1/A2 /1/A2 /1/K0 /1/K0 /1/K0 LED_5060		
D4  /1/A1 /1/A1 /1/A1 /1/K0 /1/K0 /1/K0 LED_5060		
D1  /1/A0 /1/A0 /1/A0 /1/K0 /1/K0 /1/K0 LED_5060		
* Sheet Name: /2/
D18  /2/A2 /2/A2 /2/A2 /1/K2 /1/K2 /1/K2 LED_5060		
D15  /2/A1 /2/A1 /2/A1 /1/K2 /1/K2 /1/K2 LED_5060		
D12  /2/A0 /2/A0 /2/A0 /1/K2 /1/K2 /1/K2 LED_5060		
D17  /2/A2 /2/A2 /2/A2 /1/K1 /1/K1 /1/K1 LED_5060		
D14  /2/A1 /2/A1 /2/A1 /1/K1 /1/K1 /1/K1 LED_5060		
D11  /2/A0 /2/A0 /2/A0 /1/K1 /1/K1 /1/K1 LED_5060		
D16  /2/A2 /2/A2 /2/A2 /1/K0 /1/K0 /1/K0 LED_5060		
D13  /2/A1 /2/A1 /2/A1 /1/K0 /1/K0 /1/K0 LED_5060		
D10  /2/A0 /2/A0 /2/A0 /1/K0 /1/K0 /1/K0 LED_5060		
* Sheet Name: /3/
D27  /3/A2 /3/A2 /3/A2 /1/K2 /1/K2 /1/K2 LED_5060		
D24  /3/A1 /3/A1 /3/A1 /1/K2 /1/K2 /1/K2 LED_5060		
D21  /3/A0 /3/A0 /3/A0 /1/K2 /1/K2 /1/K2 LED_5060		
D26  /3/A2 /3/A2 /3/A2 /1/K1 /1/K1 /1/K1 LED_5060		
D23  /3/A1 /3/A1 /3/A1 /1/K1 /1/K1 /1/K1 LED_5060		
D20  /3/A0 /3/A0 /3/A0 /1/K1 /1/K1 /1/K1 LED_5060		
D25  /3/A2 /3/A2 /3/A2 /1/K0 /1/K0 /1/K0 LED_5060		
D22  /3/A1 /3/A1 /3/A1 /1/K0 /1/K0 /1/K0 LED_5060		
D19  /3/A0 /3/A0 /3/A0 /1/K0 /1/K0 /1/K0 LED_5060		
* Sheet Name: /4/
D36  /4/A2 /4/A2 /4/A2 /1/K2 /1/K2 /1/K2 LED_5060		
D33  /4/A1 /4/A1 /4/A1 /1/K2 /1/K2 /1/K2 LED_5060		
D30  /4/A0 /4/A0 /4/A0 /1/K2 /1/K2 /1/K2 LED_5060		
D35  /4/A2 /4/A2 /4/A2 /1/K1 /1/K1 /1/K1 LED_5060		
D32  /4/A1 /4/A1 /4/A1 /1/K1 /1/K1 /1/K1 LED_5060		
D29  /4/A0 /4/A0 /4/A0 /1/K1 /1/K1 /1/K1 LED_5060		
D34  /4/A2 /4/A2 /4/A2 /1/K0 /1/K0 /1/K0 LED_5060		
D31  /4/A1 /4/A1 /4/A1 /1/K0 /1/K0 /1/K0 LED_5060		
D28  /4/A0 /4/A0 /4/A0 /1/K0 /1/K0 /1/K0 LED_5060		
* Sheet Name: /5/
D45  /5/A2 /5/A2 /5/A2 /1/K2 /1/K2 /1/K2 LED_5060		
D42  /5/A1 /5/A1 /5/A1 /1/K2 /1/K2 /1/K2 LED_5060		
D39  /5/A0 /5/A0 /5/A0 /1/K2 /1/K2 /1/K2 LED_5060		
D44  /5/A2 /5/A2 /5/A2 /1/K1 /1/K1 /1/K1 LED_5060		
D41  /5/A1 /5/A1 /5/A1 /1/K1 /1/K1 /1/K1 LED_5060		
D38  /5/A0 /5/A0 /5/A0 /1/K1 /1/K1 /1/K1 LED_5060		
D43  /5/A2 /5/A2 /5/A2 /1/K0 /1/K0 /1/K0 LED_5060		
D40  /5/A1 /5/A1 /5/A1 /1/K0 /1/K0 /1/K0 LED_5060		
D37  /5/A0 /5/A0 /5/A0 /1/K0 /1/K0 /1/K0 LED_5060		
* Sheet Name: /6/
D54  /6/A2 /6/A2 /6/A2 /1/K2 /1/K2 /1/K2 LED_5060		
D51  /6/A1 /6/A1 /6/A1 /1/K2 /1/K2 /1/K2 LED_5060		
D48  /6/A0 /6/A0 /6/A0 /1/K2 /1/K2 /1/K2 LED_5060		
D53  /6/A2 /6/A2 /6/A2 /1/K1 /1/K1 /1/K1 LED_5060		
D50  /6/A1 /6/A1 /6/A1 /1/K1 /1/K1 /1/K1 LED_5060		
D47  /6/A0 /6/A0 /6/A0 /1/K1 /1/K1 /1/K1 LED_5060		
D52  /6/A2 /6/A2 /6/A2 /1/K0 /1/K0 /1/K0 LED_5060		
D49  /6/A1 /6/A1 /6/A1 /1/K0 /1/K0 /1/K0 LED_5060		
D46  /6/A0 /6/A0 /6/A0 /1/K0 /1/K0 /1/K0 LED_5060		
* Sheet Name: /7/
D63  /7/A2 /7/A2 /7/A2 /1/K2 /1/K2 /1/K2 LED_5060		
D60  /7/A1 /7/A1 /7/A1 /1/K2 /1/K2 /1/K2 LED_5060		
D57  /7/A0 /7/A0 /7/A0 /1/K2 /1/K2 /1/K2 LED_5060		
D62  /7/A2 /7/A2 /7/A2 /1/K1 /1/K1 /1/K1 LED_5060		
D59  /7/A1 /7/A1 /7/A1 /1/K1 /1/K1 /1/K1 LED_5060		
D56  /7/A0 /7/A0 /7/A0 /1/K1 /1/K1 /1/K1 LED_5060		
D61  /7/A2 /7/A2 /7/A2 /1/K0 /1/K0 /1/K0 LED_5060		
D58  /7/A1 /7/A1 /7/A1 /1/K0 /1/K0 /1/K0 LED_5060		
D55  /7/A0 /7/A0 /7/A0 /1/K0 /1/K0 /1/K0 LED_5060		

.end
